US09119868B2
To an ice-cooled stirred mixture of methyl 2-(4-fluorophenyl)-5-hydroxy-6-nitro-1-benzofuran-3-carboxylate (4.915 g, 14.84 mmol) and 4-(dimethylamino)pyridine (0.181 g, 1.484 mmol) in anhydrous dichloromethane (130 mL) under nitrogen, was added triethylamine (3.10 mL, 22.26 mmol) followed by trifluoromethanesulfonic anhydride (3.76 mL, 22.26 mmol). After 50 minutes at 0° C., water was added and the organic layer was separated. The aqueous phase was extracted with more dichloromethane and the combined organics were washed with 2M HCl and water. The organics were dried by hydrophobic filter tube and evaporated to give the Methyl 2-(4-fluorophenyl)-6-nitro-5-{[(trifluoromethyl)sulfonyl]oxy}-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=481 (M+NH4)+.

reactant | methyl 2-(4-fluorophenyl)-5-hydroxy-6-nitro-1-benzofuran-3-carboxylate | 14.84 mmol, 4.915 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C(=C2)[N+](=O)[O-])O | C16H10FNO6
reactant | triethylamine | 22.26 mmol, 3.10 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 22.26 mmol, 3.76 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
catalyst | 4-(dimethylamino)pyridine | 1.484 mmol, 0.181 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | Methyl 2-(4-fluorophenyl)-6-nitro-5-{[(trifluoromethyl)sulfonyl]oxy}-1-benzofuran-3-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C17H9F4NO8S
